US07173040B2
A mixture of (±)-6-[[4-(chloromethyl)phenyl]hydroxy(1-methyl-1H-imidazol-5-yl)methyl]-4-(3-chlorophenyl)-1-methyl-2(1H)-quinolinone (0.0002 mol), obtained in Example B14, and 2(3H)-thiazolethione (0.001 mol) in THF (1 ml) and triethylamine (0.1 ml) was stirred at room temperature for 18 hours, poured out into water and extracted with CH2Cl2/CH3OH. The organic layer was separated, dried (MgSO4), filtered, and the solvent was evaporated. The residue was purified by column chromatography over kromasil 60 μm (eluent: CH2Cl2/CH3OH; 90/10). The pure fractions were collected and the solvent was evaporated, yielding (70%) of 4(3-chlorophenyl)-6-[hydroxy(1-methyl-1H-imidazol-5-yl)[4-[(2-thiazolylthio)methyl]phenyl]methyl]-1-methyl-2(1H)-quinolinone, as a white foam, MS (ESI) m/z:585, 586 (MH+).

reactant | (±)-6-[[4-(chloromethyl)phenyl]hydroxy(1-methyl-1H-imidazol-5-yl)methyl]-4-(3-chlorophenyl)-1-methyl-2(1H)-quinolinone | 0.0002 mol | ClCC1=CC=C(C=C1)C(C=1C=C2C(=CC(N(C2=CC1)C)=O)C1=CC(=CC=C1)Cl)(C1=CN=CN1C)O | C28H23Cl2N3O2
reactant | 2(3H)-thiazolethione | 0.001 mol | S1C(NC=C1)=S | C3H3NS2
reactant | water | O | H2O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
product | 4(3-chlorophenyl)-6-[hydroxy(1-methyl-1H-imidazol-5-yl)[4-[(2-thiazolylthio)methyl]phenyl]methyl]-1-methyl-2(1H)-quinolinone | 70% | ClC=1C=C(C=CC1)C1=CC(N(C2=CC=C(C=C12)C(C1=CC=C(C=C1)CSC=1SC=CN1)(C1=CN=CN1C)O)C)=O | C31H25ClN4O2S2
